US05352801
(Z)-5-Isobutylidenepyrrolidine-2,4-dione (II, R1 =isopropyl)
50 g of finely powdered (Z)-5-isobutylidene-4-methoxy-3-pyrroline-2-one was stirred with 500 ml of concentrated hydrochloric acid for 5 hours at room temperature. The mixture was then stirred 5 hours at room temperature and slowly mixed with 1 liter of 14 percent sodium hydroxide solution. The precipitated yellow product was filtered off, washed with cold water and dried in a vacuum drying cabinet. The yield of the title compound was 42.0 g (92 percent of theory). The title compound had a melting point of 134° to 136° C. (THF/hexane).

reactant | (Z)-5-isobutylidene-4-methoxy-3-pyrroline-2-one | C(/C(C)C)=C/1\C(=CC(N1)=O)OC | C9H13NO2
reactant | hydrochloric acid | 500 ml | Cl | ClH
solvent | sodium hydroxide | 1 liter | [OH-].[Na+]
product | (Z)-5-Isobutylidenepyrrolidine-2,4-dione | C(/C(C)C)=C/1\C(CC(N1)=O)=O | C8H11NO2
